US07893099B2
Step 1: (1R,2R,4R) and (1S,2S,4S)-4-(4-Azido-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid methyl ester
To a solution of (1R,2R,4R) and (1S,2S,4S)-4-(4-bromo-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid methyl ester (500 mg, 1.123 mmol, intermediate in the synthesis of example 58) in DMA (5 ml) was added sodium azide (146 mg, 2.246 mmol) and the reaction mixture was heated to 50° C. for 26 h. Then water was added and the mixture was extracted 3 times with EtOAc. The combined organic layers were dried (Na2SO4) and evaporated. The remaining brown oil was purified by silica gel chromatography (DCM/EtOAc 95:5) to obtain the title compound (351 mg, 77%) as light brown oil. MS (EI): 466.2 (M+OAc)−.

reactant | (1S,2S,4S)-4-(4-bromo-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)Br)C(F)(F)F)OC | C15H16BrF3O5S
reactant | sodium azide | 2.246 mmol, 146 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | (1S,2S,4S)-4-(4-Azido-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid methyl ester | 351 mg, 77% | COC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)N=[N+]=[N-])C(F)(F)F)OC | C15H16F3N3O5S
